US06919343B2
To a solution of 2-bromo-6-chlorobenzoic acid (17.7 g, 75.2 mmol) in methanol (200 mL) at 0° C. was added (trimethylsilyl)diazomethane (2M in hexanes, 100 mL, 0.200 mol). The solution was stirred at 0° C. for 1.5 hours, then warmed to room temperature and washed with aqueous sodium bicarbonate and brine, dried over Na2SO4, filtered and concentrated. The residue was subjected to silica gel chromatography eluted with 0-5% ethyl acetate in hexanes to provide methyl 2-bromo-6-chlorobenzoate as a pale yellow oil that gave proton NMR spectra consistent with theory.

reactant | 2-bromo-6-chlorobenzoic acid | 75.2 mmol, 17.7 g | BrC1=C(C(=O)O)C(=CC=C1)Cl | C7H4BrClO2
reactant | (trimethylsilyl)diazomethane | 0.200 mol, 2M, 100 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 200 mL | CO | CH4O
product | methyl 2-bromo-6-chlorobenzoate | BrC1=C(C(=O)OC)C(=CC=C1)Cl | C8H6BrClO2
